US04273704
To a solution of 16.0 g of methyl Boc-D-methionyl-glycinate in 50 ml of dioxane is added 50 ml of a solution of 5.6 M hydrogen chloride in dioxane. The reaction mixture is stirred for 30 minutes at room temperature and the solvent is removed under reduced pressure. The residue is stirred with diethyl ether to give a gum. The ether is decanted and the product dried under high vacuum to give methyl D-methionyl-glycinate hydrochloride which is represented by the following formula

reactant | methyl Boc-D-methionyl-glycinate | 16.0 g | C(=O)(OC(C)(C)C)N[C@H](CCSC)C(=O)NCC(=O)OC | C13H24N2O5S
reactant | hydrogen chloride | 5.6 M | Cl | ClH
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | methyl D-methionyl-glycinate hydrochloride | Cl.N[C@H](CCSC)C(=O)NCC(=O)OC | InChI=1S/C8H16N2O3S.ClH/c1-13-7(11)5-10-8(12)6(9)3-4-14-2;/h6H,3-5,9H2,1-2H3,(H,10,12);1H/t6-;/m1./s1
